Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cephalexin
 
Attending: ___
 
Chief Complaint:
Anuria, cough
 
Major Surgical or Invasive Procedure:
PICC line placement (___)

 
History of Present Illness:
___ afib on rivaroxaban, diastolic CHF, and atonic bladder with 
chronic indwelling foley catheter presents with urinary 
retention and cough of 5 days duration. Patient gets his 
catheter changed every 6 weeks here. Last change was this 
___. Patient's ___ daughter reports that he had 
good urine output after exchange but that starting at 9 ___ on 
___ he stopped producing urine altogether. She also reports 
that at home he has had a non-productive cough for the past 5 
days and has complained of fevers and chills. With daughter 
present, patient reports some cold intolerance but denies HA, 
CP, SOB, N/V, diarrhea.

In the ED, initial vitals were:  
Temp 99.9-> 97.6 HR 103-106 BP 95-105/58-60 RR ___ 100% RA 

Exam notable for "no CVAT LLL crackles"
Labs notable for ALP 244 Alb 2.1 
Hb 10.7 
Lactate 2.7 
UA with large leuks, 40 WBCs, many bacteria 30 protein, neg 
nitrites and 0 epis.

Imaging notable for LLL pneumonia

Patient was given 1 L NSS and Bactrim SS.
Patient was seen by urology, who catheterized him and he 
produced urine. Decision was made to admit for treatment of 
pneumonia and possible UTI

On the floor, feels well. With help of daughter, patient denies 
HA, CP, dysuria. Endorses SOB. Per son, patient has been 
urinating properly, with no dysuria and no cloudy urine. Last 
foley change on ___ was apparently over 2 weeks overdue.

 
ROS Per HPI, otherwise 10 point ROS negative.
 
Past Medical History:
- Hypertension
- Diastolic CHF EF 60%
- AFib on rivaroxaban. CHADS2 3.
- Cleared HBV infection
- Atonic bladder with chronic indwelling Foley
- Sigmoid volvulus (___) s/p ex-lap, resection, detorsion
- Arthritis
- Chronic leg swelling
- BPH
 
Social History:
___
Family History:
No family history of heart disease or sudden cardiac death.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=================
VS:  T 97.6 BP 92/56 HR 99 RR21 98%ra 
Gen:  ___ yo man in NAD, sleeping but rousable. Alert and 
oriented to self, place and month.
HEENT:  MMs 
CV: Irregularly irregular rhythm. Tachycardia. Normal S1 and S2. 
No murmurs, rubs, gallops.  
Pulm:  Decreased air movement and crackles at LLL base.
Abd:  Soft, ntd, nondistended.
GU:  Some suprapubic tenderness.
Ext:  Chronic stasis changes. +1 pitting edema to mid shins.
Neuro: Moving all extremities. ___ strength LEs, ___ strength 
UEs.  

DISCHARGE PHYSICAL EXAM
=================
VS:  T 97.4 BP 116/72 HR 103 RR 18 94%RA 
Gen ___ yo man in NAD, sleeping but rousable. Alert and oriented 
to self, place and month. Able to count months backwards
HEENT:  MMs  moist
CV: Irregularly irregular rhythm.  Normal S1 and S2. No murmurs, 
rubs, gallops.  JVP ~8 cm
Pulm:  Decreased air movement and crackles at LLL base.
Abd:  Soft, ntd, nondistended.
GU:  No suprapubic tenderness.
Ext:  Chronic stasis changes. +3 pitting edema on left shin.
Neuro: Moving all extremities. ___ strength LEs, ___ strength 
UEs.  

 
Pertinent Results:
LABS ON ADMISSION
=============
___ 09:10AM BLOOD WBC-5.9 RBC-3.27* Hgb-10.7* Hct-32.7* 
MCV-100* MCH-32.7* MCHC-32.7 RDW-17.2* RDWSD-63.3* Plt ___
___ 09:10AM BLOOD Neuts-49.7 ___ Monos-14.5* 
Eos-7.1* Baso-0.3 Im ___ AbsNeut-2.95# AbsLymp-1.67 
AbsMono-0.86* AbsEos-0.42 AbsBaso-0.02
___ 09:10AM BLOOD Plt ___
___ 09:10AM BLOOD Plt ___
___ 09:10AM BLOOD Glucose-89 UreaN-15 Creat-1.3* Na-133 
K-4.0 Cl-100 HCO3-22 AnGap-15
___ 09:10AM BLOOD ALT-21 AST-60* AlkPhos-244* TotBili-1.1
___ 09:10AM BLOOD Lipase-37
___ 09:10AM BLOOD Albumin-2.1* Calcium-8.0* Phos-3.1 Mg-2.0
___ 09:10AM BLOOD HoldBLu-HOLD
___ 08:57AM BLOOD ___ Comment-GREEN TOP
___ 09:19AM BLOOD Lactate-2.7*

NOTABLE LABS DURING HOSPITAL STAY
========================
___ 09:10AM BLOOD ALT-21 AST-60* AlkPhos-244* TotBili-1.1
___ 08:30AM BLOOD ALT-19 AST-49* AlkPhos-214* TotBili-1.1
___ 09:10AM BLOOD Lipase-37
___ 08:23AM BLOOD Vanco-7.7*
___ 09:19AM BLOOD Lactate-2.7*
___ 07:58AM BLOOD Lactate-1.9
___ 09:15PM BLOOD Lactate-2.6*
___ 08:57AM BLOOD Lactate-1.9
___ 04:08PM BLOOD Lactate-3.0*
___ 02:04AM BLOOD Lactate-1.8
___ 08:50AM BLOOD Lactate-1.8
___ 05:57AM BLOOD Lactate-1.7
___ 09:10AM BLOOD Glucose-89 UreaN-15 Creat-1.3* Na-133 
K-4.0 Cl-100 HCO3-22 AnGap-15
___ 09:01PM BLOOD Glucose-109* UreaN-20 Creat-1.5* Na-132* 
K-4.0 Cl-100 HCO3-21* AnGap-15
___ 08:30AM BLOOD Glucose-70 UreaN-20 Creat-1.3* Na-134 
K-3.4 Cl-104 HCO3-23 AnGap-10
___ 03:59PM BLOOD Glucose-136* UreaN-19 Creat-1.4* Na-134 
K-3.8 Cl-103 HCO3-20* AnGap-15
___ 08:23AM BLOOD Glucose-77 UreaN-19 Creat-1.2 Na-137 
K-3.6 Cl-107 HCO3-21* AnGap-13
___ 05:20AM BLOOD Glucose-67* UreaN-16 Creat-1.2 Na-135 
K-3.8 Cl-102 HCO3-23 AnGap-14
___ 08:30AM URINE CastGr-8* CastHy-6*
___ 08:30AM URINE RBC-39* WBC-40* Bacteri-MANY Yeast-NONE 
Epi-0

LABS ON DISCHARGE
==============
___ 05:20AM BLOOD WBC-5.8 RBC-2.95* Hgb-9.7* Hct-29.7* 
MCV-101* MCH-32.9* MCHC-32.7 RDW-17.2* RDWSD-64.4* Plt ___
___ 05:20AM BLOOD Plt ___
___ 05:20AM BLOOD Glucose-67* UreaN-16 Creat-1.2 Na-135 
K-3.8 Cl-102 HCO3-23 AnGap-14
___ 05:20AM BLOOD Calcium-7.8* Phos-3.7 Mg-1.9

MICROBIOLOGY & PATHOLOGY
===================
__________________________________________________________
___ 12:50 am STOOL     CONSISTENCY: NOT APPLICABLE

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      CANCELLED. 
         Test cancelled. Only one C. difficile test will 
normally be
         performed per week. If clinically indicated, please 
resubmit a new
         specimen after a 7 day or greater interval has elapsed. 

         Note, if there are compelling clinical reasons for 
repeat testing
         within a seven day window (see discussion in ___ 
laboratory
         manual), page the clinical microbiology resident on 
call (pager
         ___ to discuss the need for this repeat testing. 
__________________________________________________________
___ 10:10 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 
__________________________________________________________
___ 9:11 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 9:01 pm BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 5:05 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:51 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
__________________________________________________________
___ 9:16 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:10 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:30 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ENTEROCOCCUS SP.
                             |          |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R      <=2 S
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S     <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TETRACYCLINE----------             =>16 R
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----   <=1 S
VANCOMYCIN------------                1 S

IMAGING & PROCEDURES
================
CXR (___)
Left PICC tip in the cavoatrial junction.  No significant 
interval change
since ___.

LEFT LOWER EXTREMITY DOPPLER (___)
IMPRESSION: 
 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

EKG (___)
Atrial fibrillation with a slow ventricular response. 
Ventricular ectopy.
Left axis deviation. Non-specific ST-T wave changes. Compared to 
the previous
tracing of ___, atrial fibrillation is new.
 
Read ___.
 Intervals  Axes
RatePRQRSQTQTc (___)  PQRST
50 ___ ___

CXR PA& LATERAL (___)
Lung volumes are low.  The cardiac silhouette is borderline 
enlarged.  A
retrocardiac opacity is new since the prior examination, and in 
the
appropriate clinical context, is consistent with left lower lobe 
pneumonia. 
Left basilar opacity is chronic and similar to the examination 
from ___.  A
small pleural effusion may be present.  Right infrahilar opacity 
is likely
representative of crowding of vascular structures given low lung 
volumes. 
There is no pneumothorax.
 
IMPRESSION: 
 
Left lower lobe pneumonia.
 

EKG (___)
Atrial fibrillation with a rapid ventricular response of 102 
beats per minute.
Premature ventricular complex. Left anterior fascicular block. 
Delayed R wave
transition. Non-specific ST segment changes. Compared to the 
previous tracing
of ___ sinus rhythm is no longer appreciated. The ventricular 
response rate
is markedly faster.
 
Read ___.
 Intervals  Axes
RatePRQRSQTQTc (___)  ___

 
Brief Hospital Course:
Mr. ___ is a very pleasant ___ year old male with PMHx afib 
on rivaroxaban, diastolic CHF, and atonic bladder with chronic 
indwelling foley catheter who presented with urinary retention 
and cough of 5 days duration.During course of hospital stay, the 
following issues were addressed:

# UTI with sepsis. Patient presented with urinary retention and 
a UA that was positive with 40 WBCs, large bacteria,  large leuk 
esterase and moderate blood. He also initially had suprapubic 
tenderness on exam but reported mo issues with urine retention 
until the night preceding admission. He was given one dose of 
bactrim and transferred to the floor. Bactrim was discontinued 
as patient was found to have mild ___ Cr 1.3 from 0.8-1. Patient 
was initially placed on levofloxacin, and aztreonam was added on 
the night of hospital day 1 (___) when urine grew enterococcus 
and GNRs. Patient was triggered for bradycardia and hypotension 
the morning of ___. He was given IV fluid and his antibiotic 
coverage was broadened to meropenem, vancomycin and levofloxacin 
given resistance pattern and allergy history. Patient had 
received his morning dose of metoprolol, which likely 
contributed to his bradycardia. Patient's urine eventually 
speciated to vancomycin and ampicillin sensitive enterococcus 
and ciprofloxacin-resistant E. coli. Patient was seen by our 
infectious disease team and zosyn was thought to be the most 
parsimonious option to treat both urinary organisms as well as 
patient's pneumonia. Though Mr. ___ has a listed allergy to 
cephalexin, it was noted that he has received ceftriaxone since 
that time and did not appear to have a documented reaction. 
Zosyn was started cautiously and Mr. ___ tolerated this 
medication without any reaction. Blood pressures stabilized with 
SBPs in the ___. A PICC line was placed on ___ and patient 
was sent home for a 14-day course of zosyn to end on ___.

# Pneumonia. Patient presented with 5 days of non-productive 
cough, tachycardia, chills and LLL infiltrate found on CXR in 
ED. He was started on levofloxacin and then transitioned to 
meropenem and then zosyn as described above with good clinical 
response. 14 day course of zosyn as above.

# Urinary Retention. Patient was seen by urology down in ED, who 
replaced patient's foley with resultant good urine output. 
Patient's UA was positive for 40 WBC with large leuk esterase 
and moderate blood, and he was treated for UTI as above.

# Acute on chronic kidney injury. Patient had a creatinine rise 
of 1.3 and then 1.5 (from apparent baseline of .___. This was 
deemed to be likely multifactorial. Initial UA had 8 granular 
casts and creatinine improved only mildly with fluid, so likely 
ATN with a prerenal component and possibly some contribution 
from obstructive uropathy in setting of technical failure of 
foley on presentation. Held patient's home KCl and patient 
required redosing of xarelto to 15 mg due to drop in creatinine 
clearance. Creatinine on discharge was 1.2 and creatinine 
clearance was 46.6 mL/in.

CHRONIC ISSUES
================
# HFrEF. Patient with last echo ___ showing diastolic 
dysfunction, mod MR and TR, mod pulm htn. Held home home 
torsemide in setting of sepsis. Patient tolerated IVF without 
appearing acutely overloaded on exam.

# Afib. Held home metoprolol, redosed rivoroxaban. 

TRANSITIONAL ISSUES
- ___ lift through ___. 
- Please follow up LFTs, volume status, and BMP at follow up
- Patient tolerated zosyn well. Unsure if cephalexin allergy is 
a true allergy. ___ consider allergy skin testing and removal of 
this from documentation, as it limits the patient's antibiotics 
in the future. For this man with multiple comorbidities and a 
chronic indwelling catheter, it is important to keep options 
open.
- Added Zosyn 4.5 g IV Q8H. Start date ___ | End date ___-- 
Will need weekly CBC with differential, BUN, Cr to be faxed to 
the patient's PCP while on zosyn.
- Held torsemide during hospital stay; will need volume status 
checked on appointment 
- Would monitor CrCl with Rivaroxiban. Currently discharged with 
15 mg dose.
- Will need a CBC with primary care appointment on ___ to 
check for creatinine elevation and hypokalemia.

The following changes were made to Mr. ___ medications:
1. Added Zosyn 4.5 g IV Q8H. Start date ___ | End date ___. Changed xarelto dose to 15 mg instead of 20. Will need 
creatinine clearance monitored as an outpatient
3. Held ferrous sulfate 
4. Continued potassium chloride. 
5. Held torsemide. Will need weight and volume status assessed 
during next primary care visit.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO TID:PRN constipation 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Rivaroxaban 20 mg PO DAILY 
7. Senna 8.6 mg PO DAILY:PRN constipation 
8. Torsemide 20 mg PO DAILY 
9. Potassium Chloride 20 mEq PO DAILY 
10. Ciprofloxacin HCl 250 mg PO Frequency is Unknown 

 
Discharge Medications:
1.  Piperacillin-Tazobactam 4.5 g IV Q8H 
RX *piperacillin-tazobactam 4.5 gram 4.5 g IV q8 hours Disp #*36 
Vial Refills:*0 
2.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % 0.9 % ___ ml IV Daily:PRN Refills:*1 

3.  Rivaroxaban 15 mg PO DINNER 
RX *rivaroxaban [Xarelto] 15 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Acetaminophen 325 mg PO Q6H:PRN pain  
5.  Docusate Sodium 100 mg PO TID:PRN constipation  
6.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
7.  Potassium Chloride 20 mEq PO DAILY  
8.  Senna 8.6 mg PO DAILY:PRN constipation  
9. HELD- Ferrous Sulfate 325 mg PO DAILY  This medication was 
held. Do not restart Ferrous Sulfate until you see your primary 
care doctor and your kidneys return to normal function
10. HELD- Metoprolol Succinate XL 50 mg PO DAILY  This 
medication was held. Do not restart Metoprolol Succinate XL 
until you see your doctor as your blood pressures were low
11. HELD- Torsemide 20 mg PO DAILY  This medication was held. Do 
not restart Torsemide until you are weighed and discuss this 
with your doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
=====
Pneumonia
UTI
Acute on chronic kidney injury

Secondary
======
Atonic Bladder
Chronic diastolic heart failure
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at the ___ 
___. You came in after your foley was replaced; you 
and your family noticed that you had not been peeing since the 
night before you came into the emergency department. You also 
complained of decreased energy, fatigue and a cough for the past 
5 days. Our urology department saw you in the emergency 
department and replaced your foley catheter. You were able to 
urinate well after this. A chest x-ray showed a possible 
pneumonia in your lungs. You were placed on an antibiotic called 
levofloxacin. During the ___ day of your hospital stay, your 
blood pressure and heart rate became very low. You also grew two 
bacteria in your urine. We gave you IV fluid and broadened your 
antibiotic coverage to cover for these organisms and you got 
better. You will need to be on IV antibiotics for a total of 14 
days.

The following changes were made to your medications:
1. Added Zosyn 4.5 g IV Q8H. Start date ___ | End date ___. Changed your xarelto dose to 15 mg instead of 20. Please do 
not take 20 mg shot again until you see your primary care doctor 
and your kidneys return to normal function.
3. Stopped ferrous sulfate (your iron supplement). Please do not 
take again until you see your primary care doctor and your 
kidneys return to normal function.
4. Continue potassium chloride. 
5. Stopped your torsemide temporarily. Please do not take again 
until you see your doctor.

Please take your medications as detailed in this discharge 
summary. Weigh yourself every morning, call MD if weight goes up 
more than 3 pounds. Additionally, if you experience any of the 
danger signs listed below, call your primary care provider or 
come to the emergency room immediately.

Best Wishes,

Your ___ Care Team
 
Followup Instructions:
___